US09079866B2
Step C: 5-(3-Fluoro-6′-(pyrimidin-2-ylthio)biphenyl-4-yl)pyrimidin-2-amine
A solution of 4′-(2-aminopyrimidin-5-yl)-5′-fluorobiphenyl-2-thiol (300 mg, 1.00 mmol), 2-chloropyrimidine (229 mg, 2.00 mmol), PPh3 (262 mg, 1.00 mmol) and TEA (0.38 mL) in DMF (10 mL) was stirred at 120° C. under a N2 atmosphere over-night. The reaction mixture was then cooled to rt, concentrated to dryness, and the residue subjected to FCC purification to give the title compound (170 mg, 45%). MS (ESI): mass calcd. for C20H14FN5S, 375.10; m/z found, 375.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.66 (s, 2H), 8.56 (d, J=4.9, 2H), 7.79-7.73 (m, 1H), 7.63-7.56 (m, 2H), 7.55-7.48 (m, 2H), 7.33-7.24 (m, 2H), 7.21 (t, J=4.9, 1H), 6.23 (s, 2H).

reactant | 4′-(2-aminopyrimidin-5-yl)-5′-fluorobiphenyl-2-thiol | 1.00 mmol, 300 mg | NC1=NC=C(C=N1)C1=CC=C(C=C1F)C=1C(=CC=CC1)S | C16H12FN3S
reactant | 2-chloropyrimidine | 2.00 mmol, 229 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | PPh3 | 1.00 mmol, 262 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(3-Fluoro-6′-(pyrimidin-2-ylthio)biphenyl-4-yl)pyrimidin-2-amine | 170 mg, 45% | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=CC=CC=C1SC1=NC=CC=N1 | C20H14FN5S
